US04187303
1 g (4.6 mmol) of 3,4-dihydro-2-methyl-3-oxo-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide are stirred at room temperature for 3 hours under nitrogen with 0.82 g (4.6 mmol) of 2-methyl-4-nitrophenylisocyanate and 0.47 g (4.6 mmol) of triethylamine in 10 ml of absolute dimethyl sulfoxide. Thereafter, the mixture is poured into 40 ml of 2-N hydrochloric acid and 25 g of ice and stirred for 20 minutes. The separated precipitate is filtered off under suction and washed neutral with water. The precipitate is dissolved in 200 ml of methylene chloride, the turbid solution is dried over sodium sulfate, stirred with 0.3 g of active carbon and filtered. The filtrate is extracted with five 100 ml portions of saturated sodium carbonate solution, each of the aqueous phases being re-extracted with a small amount of methylene chloride. The combined aqueous phases are acidified to pH 1 with concentrated hydrochloric acid. The separated product is extracted with two 150 ml portions of methylene chloride. The combined organic phases are dried over sodium sulfate, whereupon the solvent is distilled off. For purification, the product is recrystallized from ca 80 ml methanol. There is obtained 3-hydroxy-2-methyl-4-(2-methyl-4-nitrophenylcarbamoyl)-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide of melting point 189°-191° C.

reactant | 3,4-dihydro-2-methyl-3-oxo-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide | 4.6 mmol, 1 g | CN1S(C2=C(CC1=O)C=CS2)(=O)=O | C7H7NO3S2
reactant | 2-methyl-4-nitrophenylisocyanate | 4.6 mmol, 0.82 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=O | C8H6N2O3
reactant | triethylamine | 4.6 mmol, 0.47 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-hydroxy-2-methyl-4-(2-methyl-4-nitrophenylcarbamoyl)-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide | OC=1N(S(C2=C(C1C(NC1=C(C=C(C=C1)[N+](=O)[O-])C)=O)C=CS2)(=O)=O)C | C15H13N3O6S2
